### PR TITLE
Jacob/itree separation logic

### PR DESCRIPTION
**Pull request by jeprinz**
in progress branch with itrees

### CODE REVIEW

File: backends/lean/Aeneas/Std/Array/Core.lean [hunk 1]
```diff
@@ -34,16 +34,20 @@ theorem List.mapM_clone_eq {T : Type u} {clone : T → Result T} {l : List T}
...
-  match h :List.mapM clone l with
-  | ok v => ok ⟨ v, by have := List.mapM_Result_length h; scalar_tac ⟩
-  | fail e => fail e
-  | div => div
+  match h : (List.mapM clone l).match with
+  | .ok v => ok ⟨ v, by
+    simp at h
+    have := List.mapM_Result_length h
+    assumption⟩
+  | .vis _ _ => .fail .panic
```
Comment (jeprinz) [inline backends/lean/Aeneas/Std/Array/Core.lean]: Is this an acceptable way to deal with more effects here? The clone function should never call other effects.

File: tests/lean/CastSigned.lean [hunk 2]
```diff
@@ -22,7 +22,7 @@ def test_u8_cast_signed_all_ones : Result Unit := do
   massert (y = (-1)#i8)
 
 /- Unit test for [cast_signed::test_u8_cast_signed_all_ones] -/
-#assert (test_u8_cast_signed_all_ones == ok ())
+#assert ((test_u8_cast_signed_all_ones ).is_ok ())
```
Comment (sonmarcho) [inline tests/lean/CastSigned.lean]: We should remove the space.

File: tests/lean/SpecTests/Coin.lean [hunk 3]
```diff
@@ -0,0 +1,178 @@
...
+--       let y ← x + x
+--       ITree.vis () fun (b : Bool) =>
+--       if b then ITree.ret y else ITree.ret 6#i32)  := by
+--   step
+--   step
+--   apply coinSpec.vis
+--   intros b
+--   cases b
+--   · simp [*]
+--   · simp [*]
```
Comment (sonmarcho) [inline tests/lean/SpecTests/Coin.lean]: Remove this comment

File: tests/lean/SpecTests/Coin.lean [hunk 4]
```diff
@@ -0,0 +1,178 @@
+import Aeneas.Std.Primitives
```
Comment (sonmarcho) [inline tests/lean/SpecTests/Coin.lean]: I think we should put this file in `backends/lean` as it is not automatically generated

File: backends/lean/Aeneas/Std/Scalar/Core.lean [hunk 5]
```diff
@@ -613,10 +613,11 @@ theorem UScalar.tryMkOpt_eq (ty : UScalarTy) (x : Nat) :
...
 
 theorem UScalar.tryMk_eq (ty : UScalarTy) (x : Nat) :
-  match tryMk ty x with
-  | ok y => y.val = x ∧ inBounds ty x
-  | fail _ => ¬ (inBounds ty x)
-  | _ => False := by
+  match (tryMk ty x).match with
+    | .ok y => y.val = x ∧ inBounds ty x
+    | .vis (.fail _e) _k => ¬ (inBounds ty x)
+    | _ => False
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Scalar/Core.lean]: Let's remove the indentation to keep things consistent

File: backends/lean/Aeneas/Std/Primitives.lean [hunk 6]
```diff
@@ -60,11 +63,106 @@ deriving Repr, BEq
...
+| fail : Error → RustEffect.I
+
+def RustEffect.O (i : RustEffect.I) : Type :=
+  match i with
+  | .fail _ => PEmpty
+
+def RustEffect : Effect := {
+  I := RustEffect.I
+  O := RustEffect.O
+}
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Primitives.lean]: What about `Input`/`Output` rather than `I`/`O` (it's clearer I think)?

File: backends/lean/Aeneas/Std/Primitives.lean [hunk 7]
```diff
@@ -60,11 +63,106 @@ deriving Repr, BEq
...
+@[irreducible]
+def Result (α : Type u) : Type u := ITree RustEffect α
+unseal Result
+
+def Result.ok {α} (a : α) : Result α := .ret a
+
+def Result.vis {α} (eff : RustEffect.I) (k : RustEffect.O eff → Result α) : Result α := ITree.vis eff k
+
+@[simp, grind .]
+def Result.fail {α} (e : Error) : Result α := Result.vis (.fail e) PEmpty.elim
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Primitives.lean]: Not sure we want the `simp` and `grind .` attributes: we want this to be opaque.
We probably want simp/grind lemmas about `spec` and `bind` instead.

File: backends/lean/Aeneas/Std/Primitives.lean [hunk 8]
```diff
@@ -60,11 +63,106 @@ deriving Repr, BEq
...
+theorem ok_not_div {α} {a : α} : ¬ Result.ok a = .div := by grind [Result.ok, Result.div]
+@[simp, grind .]
+theorem div_not_ok {α} {a : α} : ¬ Result.div = .ok a := by grind [Result.ok, Result.div]
+@[simp, grind .]
+theorem vis_not_div {α} {eff k} : ¬ @Result.vis α eff k = .div := by grind [Result.div, Result.vis]
+@[simp, grind .]
+theorem div_not_vis {α} {eff k} : ¬ .div = @Result.vis α eff k := by grind [Result.div, Result.vis]
+@[simp, grind .]
+theorem Result.ok.injEq {α} {a b : α} : (Result.ok a = .ok b) = (a = b) := by
+  grind [Result.ok]
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Primitives.lean]: Marking these as `grind .` might be dangerous for performance. I think `grind` has an attribute for injective functions.

File: backends/lean/Aeneas/Std/Primitives.lean [hunk 9]
```diff
@@ -60,11 +63,106 @@ deriving Repr, BEq
...
+
+@[simp, grind .]
+theorem Result.match.ok {α : Type u} {a : α} : (Result.ok a).match = .ok a := by
+  simp [Result.match, Result.ok, Result.cases]
+@[simp, grind .]
+theorem Result.match.vis {α : Type u} {e k} : (@Result.vis α e k).match = .vis e k := by
+  simp [Result.match, Result.vis, Result.cases]
+@[simp, grind .]
+theorem Result.match.div {α : Type u} : Result.div.match = @MatchResult.div α := by
+  simp [Result.match, Result.div, Result.cases]
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Primitives.lean]: `grind =` (the LHS is the pattern) doesn't work?

File: backends/lean/Aeneas/Std/Primitives.lean [hunk 10]
```diff
@@ -115,47 +194,34 @@ def Result.ofOption {a : Type u} (x : Option a) (e : Error) : Result a :=
...
-  | ok v  => f v
-  | fail v => fail v
-  | div => div
+@[simp] theorem bind_ok (x : α) (f : α → Result β) : bind (.ok x) f = f x :=
+  by simp [bind, ok]
+-- @[simp] theorem bind_fail (x : Error) (f : α → Result β) : bind (.fail x) f = .fail x :=
+--   by simp [bind, vis]
+--      apply congrArg
+--      funext x
+--      contradiction
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/Primitives.lean]: This really doesn't work anymore?

File: backends/lean/Aeneas/Std/SliceIter.lean [hunk 11]
```diff
@@ -233,75 +233,75 @@ private def collectStepBy (sbi : core.iter.adapters.step_by.StepBy (core.slice.i
...
-  | .fail .panic => true
+  match (core.iter.traits.iterator.Iterator.step_by.default (mkSliceIter [1, 2, 3]) 0#usize).match with
+  | .vis (.fail e) _ => e == panic
   | _ => false
 
 -- step_by(1) returns all elements
 #assert (do
   let sbi ← core.iter.traits.iterator.Iterator.step_by.default (mkSliceIter [0, 1, 2, 3, 4]) 1#usize
-  collectStepBy sbi) == .ok [0, 1, 2, 3, 4]
+  collectStepBy sbi).is_ok [0, 1, 2, 3, 4]
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/SliceIter.lean]: let's rename to `isOk`

File: backends/lean/Aeneas/Std/WP.lean [hunk 12]
```diff
@@ -789,36 +854,57 @@ namespace Aeneas.Std.WP
...
+    · simp
+      rename_i i k
+      cases i <;> cbv
+    · cbv
+
 
 theorem Result.of_wp {α : Type u} {x : Result α} (P : Result α → Prop) :
     (⊢ₛ wp⟦x⟧ (fun a => ⌜P (.ok a)⌝,
                   fun e => ⌜P (.fail e.down)⌝,
+                  fun _ => ⌜False⌝, -- if other effects are used, this provides no information.
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Std/WP.lean]: Update comment: we're stating that this is unreachable right? (no information is `True`)

File: src/extract/Extract.ml [hunk 13]
```diff
@@ -3772,13 +3772,9 @@ let extract_unit_test_if_marked (ctx : extraction_ctx) (fmt : F.formatter)
             F.pp_print_space fmt ();
             F.pp_print_string fmt "()");
           F.pp_print_space fmt ();
-          F.pp_print_string fmt "==";
+          F.pp_print_string fmt ").is_ok";
```
Comment (sonmarcho) [inline src/extract/Extract.ml]: There are some formatting issues

File: backends/lean/Aeneas/Data/Coinductive/ITree.lean [hunk 14]
```diff
@@ -0,0 +1,379 @@
...
+  simp at eq
+
+@[simp, grind .]
+theorem ret_inj {E} {α} {x y} : (@ITree.ret α E x = ITree.ret y) ↔ (x = y) := by
+  constructor
+  · intros eq
+    have eq := congrArg (fun i => i.approx 1) eq
+    simp at eq
+    grind only
+  · grind only
```
Comment (sonmarcho) [inline backends/lean/Aeneas/Data/Coinductive/ITree.lean]: I'm cautious about the use of `grind .` because the selected pattern is unclear

**Review by sonmarcho — CHANGES_REQUESTED** [review]
Only a few minor remarks: I'll take care of it.

**Review by sonmarcho — APPROVED** [review]
